US08110688B2
Synthesis of 4-methoxy-3H-benzofuran-2-one
A solution of 0.47 g (2.0 mmol) of N,N-diethyl-(2-hydroxy-6-methoxyphenyl)acetamide in 5.0 mL of toluene was added with 0.92 mL (1.36 g, 12 mmol) of trifluoroacetic acid and heated and stirred on a 125° C. oil bath of for 71 minutes. The mixture was cooled under room temperature, and after that added with 24 mL of 0.5 N aqueous sodium hydroxide, while being stirred, and then transferred into a separatory funnel and settled. The aqueous layer was separated and discarded and after the organic layer was washed with 5 mL of water twice, the solvent was evaporated to obtain 0.27 g of the title compound.

reactant | N,N-diethyl-(2-hydroxy-6-methoxyphenyl)acetamide | 2.0 mmol, 0.47 g | C(C)N(C(CC1=C(C=CC=C1OC)O)=O)CC | C13H19NO3
reactant | trifluoroacetic acid | 12 mmol, 0.92 mL, 1.36 g | FC(C(=O)O)(F)F | C2HF3O2
reactant | sodium hydroxide | 0.5 N, 24 mL | [OH-].[Na+]
solvent | toluene | 5.0 mL | C1(=CC=CC=C1)C | C7H8
product | 4-methoxy-3H-benzofuran-2-one | 0.27 g | COC1=CC=CC2=C1CC(O2)=O | C9H8O3
